US07429581B2
(iv) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid
To a solution of 400 mg 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid tert-butyl ester in 5 ml DCM, 15 ml TFA were added at RT. After 3 h 30 ml toluene were added and the solvents were removed under reduced pressure. The residue was then three times codistillied with toluene and subjected to the next reaction step without further purification.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)C1=NN(C(=C1)COCCOCCOC)CC(NC1=NC=C(C=C1)Cl)=O | C21H29ClN4O6
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1N=C(C=C1COCCOCCOC)C(=O)O | C17H21ClN4O6
